US07713993B2
Synthesis of 4-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazol-3-yl}-4-(3,4,5-trifluorophenyl)butan-1-ol
Potassium carbonate (210 mg) was added to a solution of 4-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazol-3-yl}-4-(3,4,5-trifluorophenyl)butyl acetate (400 mg) in methanol (3 mL), and the reaction solution was stirred at room temperature for three hours. Ethyl acetate and brine were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 325 mg of the title compound. The property values of the compound are as follows.

reactant | Potassium carbonate | 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazol-3-yl}-4-(3,4,5-trifluorophenyl)butyl acetate | 400 mg | C(C)(=O)OCCCC(C1=CC(=C(C(=C1)F)F)F)C1=NN=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C27H26F3N5O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 4-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazol-3-yl}-4-(3,4,5-trifluorophenyl)butan-1-ol | 325 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C=1NC(=NN1)C(CCCO)C1=CC(=C(C(=C1)F)F)F | C25H24F3N5O2
